US08246979B2
2400 g Rotigotine hydrochloride were added to a solution of 272.8 g NaOH in 3488 g ethanol (96%). The resulting mixture was stirred for approximately 10 minutes. Then 379.2 g of sodium phosphate buffer solution (27.6 g Na2HPO4×2H2O) and 53.2 g NaH2PO4×2H2O in 298.5 g water) was added. Insoluble or precipitated solids were separated from the mixture by filtration. The filter was rinsed with 964 g ethanol (96%) to obtain a particle-free ethanolic solution of rotigotine essentially in the form of the free base.

reactant | Rotigotine hydrochloride | 2400 g | CCCN(CCC1=CC=CS1)[C@H]2CCC3=C(C2)C=CC=C3O.Cl
reactant | NaOH | 272.8 g | [OH-].[Na+]
reactant | sodium phosphate | 379.2 g | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
solvent | ethanol | 3488 g | C(C)O | C2H6O
solvent | water | 298.5 g | O | H2O
product | rotigotine | CCCN(CCC1=CC=CS1)[C@H]2CCC3=C(C=CC=C3O)C2 | C19H25NOS
